US09163011B2
c) (R)-3-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-5-methoxy-3-((S)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester
To a suspension of zinc (3.07 g, 47 mmol) and copper(I) chloride (233 mg, 2.349 mmol) in dry THF (90 ml) were added 4 drops of trimethylchlorosilane under nitrogen to activate the zinc. After 10 minutes ethyl 2-bromo-2,2-difluoroacetate (9.54 g, 47 mmol) was added slowly by syringe over a period of 20 minutes between 25° and 30° C. adjusted with an external cooling bath (exothermic). The reaction mixture was kept in an ultrasound bath for 30 minutes. This black fine suspension was added drop wise to a solution of (S)-2-methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-prop-(E)-ylidene]-amide (7.51 g, 15.66 mmol) in dry THF (75 ml) at 0° C. under inert atmosphere. After 15 min the reaction mixture was kept at 50° C. for 2 h and was then added to a cold aq. ammonium chloride solution (5%). Ethyl acetate was added and the organic phase was washed with aq. citric acid (5% solution), water, sat. sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and concentrated. The crude yellowish oil (9.77 g, roughly a 4:1 mixture of diastereoisomers) was chromatographed over silica gel (Redisep column 120 g, cyclohexane/ethyl acetate 85:15) to give the title compound as a yellow oil. 6.11 g yellow oil. (64.6% yield).

reactant | ethyl 2-bromo-2,2-difluoroacetate | 47 mmol, 9.54 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | (S)-2-methyl-propane-2-sulfinic acid [1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3-methoxy-prop-(E)-ylidene]-amide | 15.66 mmol, 7.51 g | BrC1=CC(=C(C(=N1)\C(\CCOC)=N\[S@@](=O)C(C)(C)C)F)[Si](CC)(CC)CC | C19H32BrFN2O2SSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
catalyst | trimethylchlorosilane | 4 drops | C[Si](Cl)(C)C | C3H9ClSi
solvent | THF | 75 ml | C1CCOC1 | C4H8O
catalyst | zinc | 47 mmol, 3.07 g | [Zn] | Zn
catalyst | copper(I) chloride | 2.349 mmol, 233 mg | [Cu]Cl
product | (R)-3-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-5-methoxy-3-((S)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester | 64.6% yield | C(C)OC(C([C@](CCOC)(N[S@@](=O)C(C)(C)C)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br)(F)F)=O | C23H38BrF3N2O4SSi
